US07205292B2
Step B: N-[1-Benzyl-3-(4-hydroxybenzyl)-2-oxoazepan-3-yl]-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide
10% Palladium on carbon (23 mg) was added to a solution N-{1-benzyl-3-[4-(benzyloxy)benzyl]-2-oxoazepan-3-yl}-4-(2-oxo-1,4-dihydroquinazolin-3 (2H)-yl)piperidine-1-carboxamide (67 mg, 0.100 mmol) in ethanol (5 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 32 h, the mixture was filtered and concentrated. Purification by silica gel chromatography (1% methanol/dichloromethane→10% methanol/dichloromethane) gave the title compound (43 mg). MS 582 (M+1).

reactant | N-{1-benzyl-3-[4-(benzyloxy)benzyl]-2-oxoazepan-3-yl}-4-(2-oxo-1,4-dihydroquinazolin-3 (2H)-yl)piperidine-1-carboxamide | 0.100 mmol, 67 mg | C(C1=CC=CC=C1)N1C(C(CCCC1)(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C41H45N5O4
catalyst | Palladium on carbon | 23 mg | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-[1-Benzyl-3-(4-hydroxybenzyl)-2-oxoazepan-3-yl]-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide | 43 mg | C(C1=CC=CC=C1)N1C(C(CCCC1)(CC1=CC=C(C=C1)O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C34H39N5O4
